US06649643B1
Production of 1-(1,2-Dihydronaphtho[2,1-b]furan-7-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
A solution of 4-bromo-1H-imidazole (2.11 g) in THF (40 ml) was cooled to −78° C. A solution of tert-butyllithium in pentane (1.7 M; 13 ml) was added to the solution. The mixture was stirred at 5° C. for 2 h and then cooled to −78° C. 6-formyl-2,3-dihydronaphtho[2,3-b]furane (1.46 g) in THF (30 ml) was added to the mixture. The mixture was allowed to room temperature and was stirred for 20 h. Ammonium chloride solution was added to the mixture and extracted with mixed solution of THF and ethyl acetate. The organic layer was dried and concentrated. The residue was purified by silica gel chromatography to give the titled compound (1.01 g) as a colorless solid.

reactant | 4-bromo-1H-imidazole | 2.11 g | BrC=1N=CNC1 | C3H3BrN2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 6-formyl-2,3-dihydronaphtho[2,3-b]furane | 1.46 g | C(=O)C1=CC2=CC3=C(OCC3)C=C2C=C1 | C13H10O2
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | pentane | 1.7 M, 13 ml | CCCCC | C5H12
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(1,2-Dihydronaphtho[2,1-b]furan-7-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.01 g | C1C2=C(OC1)C=CC1=CC(=CC=C12)C(C(C)C)(O)C=1N=CNC1 | C19H20N2O2
